US07820704B2
[4-(4-Isopropyl-phenyl)-thiazol-2-ylsulfamoyl]-acetic acid tert-butyl ester was combined with 4M HCl in dioxane as in general procedure G1 to furnish [4-(4-Isopropyl-phenyl)-thiazol-2-ylsulfamoyl]-acetic acid. LCMS m/z: 342 (M+1)+; 1H NMR (DMSO-d6, 400 MHz): δ 1.22 (d, 6H); 2.92 (m, 1H); 4.04 (s, 2H); 7.17 (s, 1H); 7.33 (d, 2H); 7.66 (d, 2H); 12.98 (s); 13.2 (s).

reactant | [4-(4-Isopropyl-phenyl)-thiazol-2-ylsulfamoyl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CS(NC=1SC=C(N1)C1=CC=C(C=C1)C(C)C)(=O)=O)=O | C18H24N2O4S2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [4-(4-Isopropyl-phenyl)-thiazol-2-ylsulfamoyl]-acetic acid | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)NS(=O)(=O)CC(=O)O | C14H16N2O4S2
